US06511670B1
Preparation of 3-Thia-5,8-heptadecadiynoic Acid
2.02 ml of a 30% solution of sodium methoxide in methanol were added dropwise to a solution of 372 μl of thioglycolic acid in 5 ml of methanol, under an inert atmosphere. The mixture was maintained under stirring for 30 min and then a solution of 1.2 g of 1-chloro-2,5-tetradecadiyne in 6 ml of methanol was added under an inert atmosphere. The mixture was maintained under stirring for 20 hours at room temperature and then the reaction medium was poured over 100 ml of acid water (98 ml of water+2 ml concentrated H2SO4) and then extracted 3 times with ethyl ether. The combined organic phases were washed 3 times with water and then with a saturated aqueous solution of NaCl before being dried (Na2SO4) filtered and concentrated under vacuum in a rotary evaporator. The oily residue obtained crystallized on cooling. 3-Thia-5,8-heptadecadiynoic acid was recrystallized from heptane and then from hexane and finally from diisopropyl ether. The acid was thus isolated in the form of beige crystals with a yield of 49.4%.

reactant | sodium methoxide | C[O-].[Na+]
reactant | thioglycolic acid | 372 μl | C(CS)(=O)O | C2H4O2S
reactant | 1-chloro-2,5-tetradecadiyne | 1.2 g | ClCC#CCC#CCCCCCCCC | C14H21Cl
reactant | water | 100 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 6 ml | CO | CH4O
product | 3-Thia-5,8-heptadecadiynoic Acid | yield of 49.4% | C(CSCC#CCC#CCCCCCCCC)(=O)O | C16H24O2S
